US05569768
Ethyl 2-(4-nitro-1H-benzimidazol-1-yl)octanoate (4.44 mmoles, 1.48 g.) was hydrogenated over 0.6 g of 5% Pd/C in 100 ml ethanol. The catalyst was filtered over celite. The solution was concentrated. The residue was dissolved in 25 ml DHF and added to a stirred mixture of 2-(2H-tetrazol-5-yl)benzoic acid (4.21 mmoles, 0.80 g), dicyclohexylcarbodiimide (4.31 mmoles, 0.89 g.), and hydroxybenzotriazole (4.44 mmoles, 0.60 g) in 50 ml DMF. The reaction was stirred for 4 hours. The solid was removed by filtration. The reaction was concentrated. The residue was dissolved in ethyl acetate, and washed with water. The pH was adjusted to 8.0 using 5N NaOH. The aqueous layer was acidified to pH 2.5 using 2N HCL, and then extracted with ethyl acetate. The organic phase was separated, washed with water, dried and concentrated. The product was purified over silica gel eluted with 2% EtOH in ethyl acetate with 1% acetic acid to yield 0.18 g of 2-[4-[2-(2H-tetrazol-5-yl)benzamido]-1H-benzimidazol-1-yl]octanoic acid. (MS)

reactant | Ethyl 2-(4-nitro-1H-benzimidazol-1-yl)octanoate | 4.44 mmoles, 1.48 g | [N+](=O)([O-])C1=CC=CC=2N(C=NC21)C(C(=O)OCC)CCCCCC | C17H23N3O4
reactant | 2-(2H-tetrazol-5-yl)benzoic acid | 4.21 mmoles, 0.80 g | N=1NN=NC1C1=C(C(=O)O)C=CC=C1 | C8H6N4O2
reactant | dicyclohexylcarbodiimide | 4.31 mmoles, 0.89 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroxybenzotriazole | 4.44 mmoles, 0.60 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 2-[4-[2-(2H-tetrazol-5-yl)benzamido]-1H-benzimidazol-1-yl]octanoic acid | 0.18 g | N=1NN=NC1C1=C(C(=O)NC2=CC=CC=3N(C=NC32)C(C(=O)O)CCCCCC)C=CC=C1 | C23H25N7O3
